US04618677
The procedure described in Example 2 was followed, using 0.9 g of 4-methoxyphenyl isocyanate, 2.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.7 g of triethylamine and 50 ml of methylene chloride, to give 0.72 g (25% of theory) of N-(4-methoxyphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate as an off-white crystalline solid, M.p. 235°-237° C.

reactant | 4-methoxyphenyl isocyanate | 0.9 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 2.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxyphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate | 0.72 g, 25% | O.Cl.Cl.COC1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C22H30ClN3O2S.2ClH.H2O/c1-28-21-9-7-20(8-10-21)24-22(27)29-16-2-11-25-12-14-26(15-13-25)17-18-3-5-19(23)6-4-18;;;/h3-10,24,27,29H,2,11-17H2,1H3;2*1H;1H2
